US08134001B2
In a manner similar to the method described in example 1d, trans-2-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-benzaldehyde (1.12 g, 3 mmol) was reacted with 1,1,1,3,3,3-hexamethyldisilazane (0.63 mL, 3 mmol), n-butyllithium (2.5 M, 1.2 mL, 3 mmol), trimethylsilyl chloride (0.39 mL, 3 mmol), triethylamine (0.55 mL, 4 mmol) and acetyl chloride (0.28 mL, 4 mmol) to give crude 1-[2-[trans-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | trans-2-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-benzaldehyde | 3 mmol, 1.12 g | C(C)(C)(C)[Si](O[C@@H]1CC[C@H](CC1)OC1=C(C=O)C=C(C=C1)Cl)(C)C | C19H29ClO3Si
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 3 mmol, 0.63 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 3 mmol, 2.5 M, 1.2 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 3 mmol, 0.39 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 4 mmol, 0.55 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 4 mmol, 0.28 mL | C(C)(=O)Cl | C2H3ClO
product | 1-[2-[trans-4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | C(C)(C)(C)[Si](O[C@@H]1CC[C@H](CC1)OC1=C(C=C(C=C1)Cl)C=NC(=C)O[Si](C)(C)C)(C)C | C24H40ClNO3Si2
